US08017610B2
(56a) 1-[(3,4-Difluorophenyl)sulfonyl]azetidine
Commercially available 3,4-difluorophenylsulfonylchloride (117 μL, 0.87 mmol) was dissolved in dichloromethane (5 mL), and azetidine hydrochloride (68 mg, 0.73 mmol) and triethylamine (203 μL, 1.45 mmol) were added, followed by stirring at room temperature for 2 hours. To the reaction solution, water (15 mL) was added, and extraction was carried out twice with dichloromethane (15 mL). Washing was carried out with saturated brine (15 mL), followed by drying over sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=10%-50%) to afford the desired compound (132 mg, yield 78%) as a colorless oil.

reactant | 3,4-difluorophenylsulfonylchloride | 0.87 mmol, 117 μL | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | azetidine hydrochloride | 0.73 mmol, 68 mg | Cl.N1CCC1
reactant | triethylamine | 1.45 mmol, 203 μL | C(C)N(CC)CC | C6H15N
reactant | water | 15 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[(3,4-Difluorophenyl)sulfonyl]azetidine | 132 mg, yield 78% | FC=1C=C(C=CC1F)S(=O)(=O)N1CCC1 | C9H9F2NO2S
